US09029435B2
As the component (A), a compound having the main skeleton consisting of a polymer of a (meth)acrylic monomer and having one (meth)acryl group at each of the both terminals was produced as follows. By using copper (I) bromide as a catalyst, pentamethyl diethylenetriamine as a ligand, and diethyl-2,5-dibromoadipate as an initiator, n-butyl acrylate was polymerized. The obtained polymer (300 g) was dissolved in N,N-dimethyl acetamide (300 ml), potassium acrylate (5.3 g) was added thereto, and the resultant was stirred for 3 hours under heating at 70° C. in a nitrogen atmosphere to obtain a liquid mixture containing poly(n-butyl acrylate) which has an acryl group at both terminals (hereinbelow, referred to as “polymer 1”). N,N-Dimethyl acetamide in the liquid mixture was distilled off under reduced pressure. After that, toluene was added to the residues and the insoluble matters were removed by filtration. Toluene in the filtrate was distilled off under reduced pressure, thereby purifying the polymer 1. The polymer 1 after the purification had a weight average molecular weight of 32308, dispersity of 1.36, and an average number of terminal acryl group of 2.0 (i.e., introduction rate of an acryl group to the terminal was 1000).

reactant | pentamethyl diethylenetriamine | CN(CCN(CCN(C)C)C)C | C9H23N3
reactant | diethyl-2,5-dibromoadipate | C(C)OC(C(CCC(C(=O)OCC)Br)Br)=O | C10H16Br2O4
reactant | potassium acrylate | 5.3 g | C(C=C)(=O)[O-].[K+]
catalyst | copper (I) bromide | [Cu]Br
solvent | N,N-dimethyl acetamide | 300 ml | CN(C(C)=O)C | C4H9NO
product | n-butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
